US06897225B1
4-[(Dimethylamino)acetyl]-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione
To a solution of 6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione (0.085 g) in THF (5 mL) was added DIEA (0.1 mL), HOBt (0.57 g), EDC (0.054 g) and N,N-dimethylglycine (0.037 g). After stirring overnight, the reaction was concentrated and the residue was diluted with EtOAc and washed with water, NaHCO3, and brine, dried (Na2SO4), filtered, and concentrated. Purification by chromatography (Silica gel: 2% MeOH/CH2Cl2, Chromatotron) afforded the titled compound. (0.093 g). MS (m/z) 553 (MH+). mp 73.5° C.

reactant | 6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione | 0.085 g | BrC1=CC=C(CC23CNCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C19H16BrCl2N3O2
reactant | DIEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.57 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-dimethylglycine | 0.037 g | CN(CC(=O)O)C | C4H9NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EDC | 0.054 g
product | 4-[(Dimethylamino)acetyl]-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione | CN(C)CC(=O)N1CCN2C(N(C(C2(C1)CC1=CC=C(C=C1)Br)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C23H23BrCl2N4O3
